US08809369B2
To a stirred solution of 4-amino-benzoic acid methyl ester (11.3 g, 78.4 mmol) and 3-bromobenzaldehyde (9.2 mL, 78.4 mmol) in acetonitrile (150 mL) were added isobutene (21.0 mL, 313.5 mmol) and ytterbium(III) trifluoromethanesulfonate (Yb(OTf)3) (5.8 g, 9.5 mmol). The resulting mixture was stirred at 85° C. for 18 h in sealed tube. The mixture was diluted with ethyl acetate (300 mL) and washed with water (100 mL×2) and brine (100 mL×2) and then dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 10-50% ethyl acetate in petroleum ether) to afford 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester (11.7 g, 40.0%) as a light yellow solid: MS (ESI) M+1=374.0.

reactant | 4-amino-benzoic acid methyl ester | 78.4 mmol, 11.3 g | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | 3-bromobenzaldehyde | 78.4 mmol, 9.2 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | isobutene | 313.5 mmol, 21.0 mL | C=C(C)C | C4H8
reactant | ytterbium(III) trifluoromethanesulfonate | 9.5 mmol, 5.8 g | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester | 11.7 g, 40.0% | COC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)Br)(C)C | C19H20BrNO2
